US04806549
Ethyl 2-isobutyryl-3-(2-methoxyphenylamino)acrylate (18.8 g, 0.065 mol) was added in portions to boiling diphenyl ether (150 ml). The mixture was heated under reflux for 30 minutes, cooled, and diluted with petroleum ether (500 ml). Filtration of the mixture gave 3-isobutyryl-8-methoxy-4(1H)-quinolone as a light brown solid (8.32 g, 52.2%).

reactant | Ethyl 2-isobutyryl-3-(2-methoxyphenylamino)acrylate | 0.065 mol, 18.8 g | C(C(C)C)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C16H21NO4
solvent | diphenyl ether | 150 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-isobutyryl-8-methoxy-4(1H)-quinolone | 8.32 g, 52.2% | C(C(C)C)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C14H15NO3
